US05891909
b) 3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxyacetaldehyde
A solution of 2-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]-ethanol (322 mg, 0.95 mmol, as prepared in the preceding step), N,N-diisopropylethylamine (0.35 mL, 2.0 mmol), anhydrous dimethyl sulfoxide (0.20 mL, 2.9 mmol) and anhydrous dichloromethane (2.5 mL) was cooled to 0° C. under nitrogen. Sulfur trioxide pyridine complex (308 mg, 1.9 mmol) was added in portions over 10 minutes. The solution was stirred at 0° C. for 5 hours, then the reaction was quenched with 5% aqueous citric acid (25 mL). Diethyl ether (25 mL) was added, and the mixture was extracted. The aqueous layer was extracted with diethyl ether (25 mL), and the combined organic layers were washed with 5% aqueous citric acid (25 mL). The aqueous layer was extracted with diethyl ether (25 mL), and the combined organic layers were washed with pH 7 buffer (0.5M, 2×40 mL) and brine (40 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to an oil. Crude product was purified by flash column chromatography through silica gel (0% to 5% acetone in dichloromethane) to give the title compound as a colorless oil (195 mg, 61%). 1H-NMR (300 MHz, CDCl3) δ 9.76 (t, 1H, J=1 Hz), 7.81 (dd, 1H, J=1.7, 7.9 Hz), 7.60-7.65 (m, 1H), 7.09 (d, 1H, J=8 Hz), 7.00-7.05 (m, 1H), 6.63 (br s, 1H), 6.59 (br s, 1H), 6.41 (t, 1H, J=2.2 Hz), 4.45 (d, 2H, J=1 Hz), 4.03 (s, 3H), 2.27 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C16H16O6S: 359.1 (M+Na). Found: 358.8.

reactant | 2-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]-ethanol | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCO)C=C(C1)C | C16H18O6S
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.35 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 2.9 mmol, 0.20 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxyacetaldehyde | 195 mg, 61% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCC=O)C=C(C1)C | C16H16O6S
